US08865623B2
To a solution of 4-[1-(5-bromo-2-trifluoromethoxyphenyl)-methylidene]-2,2,5,5-tetramethyldihydrofuran-3-one (7.06 g, 18.00 mmol) in methanol (300 ml) at 35° C. is added 50% aqueous hydrogen peroxide (1.80 ml, 27.00 mmol), immediately followed by 2M aqueous lithium hydroxide (1.80 ml, 3.60 mmol). After stirring at this temperature for 1 hour the reaction mixture is allowed to cool, then quenched with 10% sodium metabisulfite solution (negative KI-starch indicator test). The reaction mixture is extracted with diethyl ether (×3), then the organic phase is further washed with saturated aqueous sodium bicarbonate (×2) then brine. All organics are combined, dried over magnesium sulfate, filtered and the filtrate concentrated in vacuo to afford 2-(5-bromo-2-trifluoromethoxyphenyl)-4,4,6,6-tetramethyl-1,5-dioxaspiro[2.4]heptan-7-one (6.34 g, 86%) as a yellow oil.

reactant | 4-[1-(5-bromo-2-trifluoromethoxyphenyl)-methylidene]-2,2,5,5-tetramethyldihydrofuran-3-one | 18.00 mmol, 7.06 g | BrC=1C=CC(=C(C1)C=C1C(C(OC1(C)C)(C)C)=O)OC(F)(F)F | C16H16BrF3O3
reactant | hydrogen peroxide | 27.00 mmol, 1.80 ml | OO | H2O2
reactant | lithium hydroxide | 3.60 mmol, 2M, 1.80 ml | [OH-].[Li+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-(5-bromo-2-trifluoromethoxyphenyl)-4,4,6,6-tetramethyl-1,5-dioxaspiro[2.4]heptan-7-one | 6.34 g, 86% | BrC=1C=CC(=C(C1)C1OC12C(OC(C2=O)(C)C)(C)C)OC(F)(F)F | C16H16BrF3O4
